US04788206
As described in Example 134, (E,E)-5-(4-methoxyphenyl)-5-phenyl-2,4-pentadienoic acid 4-nitrophenyl ester (3.3 g) and 3-pyridinebutanamine (1.24 g) in tetrahydrofuran (20 mL) was stirred for 1 hour at room temperatrure. After the usual work up, the crude amide was purified by HPLC (ethyl acetate) and crystallized from ethyl acetate to furnish 2.7 g of (2E,4Z)-5-(3-methoxyphenyl)-5-phenyl-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide, mp 89°-91° C. A portion was recrystallized from the same solvent to provide the pure amide, mp 90°-92° C. Anal. Calcd for C27H28N2O2 : C, 78.61; H, 6.84; N, 6.79 Found: C, 78.88; H, 6.87; N, 6.66

reactant | (E,E)-5-(4-methoxyphenyl)-5-phenyl-2,4-pentadienoic acid 4-nitrophenyl ester | 3.3 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/C1=CC=CC=C1)\C1=CC=C(C=C1)OC)=O | C24H19NO5
reactant | 3-pyridinebutanamine | 1.24 g | N1=CC(=CC=C1)CCCCN | C9H14N2
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2E,4Z)-5-(3-methoxyphenyl)-5-phenyl-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 2.7 g | COC=1C=C(C=CC1)\C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)\C1=CC=CC=C1 | C27H28N2O2
